US06174877B1
Ethyl (1-triphenylmethyl-1H-1,2,4-triazol-3-yl)acetate
Ethyl (1H-1,2,4-triazol-3-yl)acetate (2.83 g) was dissolved in DMF (40 ml). To the solution were added triphenyl methyl chloride (5.08 g) and triethylamine (2.55 ml). The mixture was stirred for 3 hours at 25° C. The reaction mixture was added to ice-water (150 ml), which was subjected to extraction with ethyl ether (100 ml). The organic layer was washed twice with water (150 ml), which was dried over anhydrous magnesium sulfate, followed by concentration under reduced pressure. The concentrate was purified by means of a column chromatography (carrier: silica gel, 150 g, developing solvent: ethyl acetate-hexane, 1:1) to afford the title compound (2.56 g) as a crystalline product, m.p.117-119° C.

reactant | Ethyl (1H-1,2,4-triazol-3-yl)acetate | 2.83 g | N1N=C(N=C1)CC(=O)OCC | C6H9N3O2
reactant | triphenyl methyl chloride | 5.08 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | triethylamine | 2.55 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | Ethyl (1-triphenylmethyl-1H-1,2,4-triazol-3-yl)acetate | 2.56 g | C1(=CC=CC=C1)C(N1N=C(N=C1)CC(=O)OCC)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H23N3O2
